US06548493B1
tert-butyl (±)-cis-2-(3,4-dichlorophenyl)-5,6,8,9,11,11a-hexahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline-10(7aH)-carboxylate
The title compound was prepared by the method of Example 109 from tert-butyl (±)-cis-2-bromo-5,6,8,9,11,11a-hexahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline-10(7aH)-carboxylate (101.7 mg, 0.26 mmol) and 3,4-dichlorophenylboronic acid (97 mg, 0.52 mmol), after chromatographic purification (91.6 mg, 77%) as a white amorphous solid. 1H NMR (CDCl3, 300 MHz) δ7.57 (d, 1H, J=1.8 Hz), 7.42 (d, 1 H, J=8.4 Hz), 7.31 (dd, 1H, J=2.2, 8.4 Hz), 7.12 (bs, 1H), 7.07 (bs, 1H), 3.62-3.75 (m, 1H), 3.48-60 (m, 1H), 3.15-3.35 (m, 4H), 2.65-2.80 (m, 4H), 2.10-2.20 (m, 2H), 1.85-2.00 (m, 2H), 1.46 (s, 9H) ppm.

reactant | tert-butyl (±)-cis-2-bromo-5,6,8,9,11,11a-hexahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline-10(7aH)-carboxylate | 0.26 mmol, 101.7 mg | BrC=1C=C2CCCN3C2=C(C1)[C@@H]1[C@H]3CCN(C1)C(=O)OC(C)(C)C | C19H25BrN2O2
reactant | 3,4-dichlorophenylboronic acid | 0.52 mmol, 97 mg | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
product | tert-butyl (±)-cis-2-(3,4-dichlorophenyl)-5,6,8,9,11,11a-hexahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline-10(7aH)-carboxylate | ClC=1C=C(C=CC1Cl)C=1C=C2CCCN3C2=C(C1)[C@@H]1[C@H]3CCN(C1)C(=O)OC(C)(C)C | C25H28Cl2N2O2
